US04119710
1-(4'-Amino-3'-chloro-5'-trifluoromethyl-phenyl)-2-tert.butylamino-ethanol hydrochloride by method C
0.76 gm of 1-(4'-amino-3'-chloro-5'-trifluoromethyl-phenyl)-2-(N-benzyl-N-tert.butylamino)-ethanol were dissolved in 20 ml of methanol and 1.95 ml of 1N hydrochloric acid, and the solution was hydrogenated in a hydrogenation vessel in the presence of 80 mgm of palladium/coal-catalyst (10%) until 1 mol of hydrogen had been absorbed. Afterwards, the catalyst was removed by filtration, and the filtrate was evaporated to dryness in vacuo. The oily residue was purified by column chromatography (silicagel; chloroform:methanol:concentrated ammonia = 80:20:1 as eluant). The fractions containing the desired substance were combined, and the solvent was removed in vacuo. The remaining crystalline base of the desired compound was converted into its hydrochloride with the calculated quantity of 1.07 N hydrochloric acid in isopropanol, and recrystallized from ethyl acetate/ether. M.p. 205°-207° C. (decomp.).

reactant | 1-(4'-amino-3'-chloro-5'-trifluoromethyl-phenyl)-2-(N-benzyl-N-tert.butylamino)-ethanol | 0.76 gm | NC1=C(C=C(C=C1C(F)(F)F)C(CN(C(C)(C)C)CC1=CC=CC=C1)O)Cl | C20H24ClF3N2O
reactant | hydrogen | 1 mol | [H][H] | H2
solvent | methanol | 20 ml | CO | CH4O
solvent | hydrochloric acid | 1N, 1.95 ml | Cl | ClH
catalyst | palladium | [Pd] | Pd
product | 1-(4'-Amino-3'-chloro-5'-trifluoromethyl-phenyl)-2-tert.butylamino-ethanol hydrochloride | Cl.NC1=C(C=C(C=C1C(F)(F)F)C(CNC(C)(C)C)O)Cl | InChI=1S/C13H18ClF3N2O.ClH/c1-12(2,3)19-6-10(20)7-4-8(13(15,16)17)11(18)9(14)5-7;/h4-5,10,19-20H,6,18H2,1-3H3;1H
